US04018771
Isobutyramide (8.7 g, 0.1 mole), pyridine (0.40 g, 0.005 mole), pyridine hydrochloride (1.73 g, 0.015 mole), diketene (8.4 g, 0.1 mole) and trichloroethylene (100 ml) were placed in a 250 ml, 3-neck flask equipped with a magnetic stirrer, a thermometer, a condenser, a drying tube and a heating mantle. The mixture was slowly heated to 80°, and the temperature range of 75°-81° was maintained for 1 hour. The slightly cooled reaction mixture was poured into a 500 ml, r.b. flask and the solvent was stripped off to give an orange oil. Crude N-acetoacetylisobutyramide thus obtained was dissolved in toluene (100 ml) and placed in a 250 ml, 3-neck flask equipped similarly as in Example 1. After addition of acetic acid (3 g, 0.05 mole), ammonia gas was bubbled in as the reaction mixture was heated at reflux for 1 hour and was further refluxed for 1 hour after the ammonia was turned off. Chloroform (~50 ml) was added to the cooled reaction mixture and the insoluble solid was filtered and washed with chloroform (~ 50 ml). The solvent of the filtrate was stripped off and 15.51 g (81.9%, by weight, of oxypyrimidine) of yellow crystals having m.p. 148°-160° were obtained. The yield was 83.6%.

reactant | Isobutyramide | 0.1 mole, 8.7 g | C(C(C)C)(=O)N | C4H9NO
reactant | pyridine | 0.005 mole, 0.40 g | N1=CC=CC=C1 | C5H5N
reactant | pyridine hydrochloride | 0.015 mole, 1.73 g | Cl.N1=CC=CC=C1
reactant | diketene | 0.1 mole, 8.4 g | C=C1CC(=O)O1 | C4H4O2
solvent | trichloroethylene | 100 ml | ClC=C(Cl)Cl | C2HCl3
product | N-acetoacetylisobutyramide | yield was 83.6% | C(CC(=O)C)(=O)NC(C(C)C)=O | C8H13NO3
